US03963730
A solution of 19.2 g. of acetonine in 70 g. of acetone was added with 7 g. of methanol. Then, 0.9 g. of dry gaseous hydrogen chloride was introduced therein and absorbed. The solution was sealed and heated at 60°C. for 10 hours to effect the reaction. After completion of the reaction, the reaction mixture was purified in the same manner as in Example 1 to obtain triacetonamine in a yield of 140%.

reactant | acetonine | CC1=NC(NC(C1)(C)C)(C)C | C9H18N2
reactant | acetone | CC(=O)C | C3H6O
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | CO | CH4O
product | triacetonamine | yield of 140% | CC1(CC(=O)CC(N1)(C)C)C | C9H17NO
